US06706707B2
2-(2-Fluoro-phenylethynyl)-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester
The title compound, MS: m/e=287.4 (M+H+) was prepared in accordance with the general method of example 1b from 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester and 1-ethynyl-2-fluorobenzene.

reactant | 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)Br)C | C8H11BrN2O2
reactant | 1-ethynyl-2-fluorobenzene | C(#C)C1=C(C=CC=C1)F | C8H5F
product | 2-(2-Fluoro-phenylethynyl)-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)C#CC1=C(C=CC=C1)F)C | C16H15FN2O2
